US04324786
Preparation of 3-diisopropylamino-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
A mixture of 5.0 g (0.021 moles) of 3-diisopropylamino-1,2-dihydro-pyrido[2,3-e]-as-triazine and 40 ml of propionic anhydride is heated at 120° C. under argon atmosphere. After 2 hours of heating the mixture is cooled, the separated crystalline product is filtered off, the crystals are dissolved in chloroform, and the solution is filtered through a column filled with silica gel. The effluent is evaporated to obtain 3.5 g (57%) of the title compound; m.p.: 199°-200° C.

reactant | 3-diisopropylamino-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.021 moles, 5.0 g | C(C)(C)N(C=1NNC2=C(N1)N=CC=C2)C(C)C | C12H19N5
reactant | propionic anhydride | 40 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3-diisopropylamino-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 3.5 g, 57% | C(C)(C)N(C=1NN(C2=C(N1)N=CC=C2)C(CC)=O)C(C)C | C15H23N5O
